US07446118B2
To a −78° C. solution of 3-(1H-Indazol-6-yl)-3-pyridin-3-yl-acrylic acid ethyl ester CCXXXI (415 mg, 1.42 mmol) in THF (30 ml) was added 1 M solution of LiAlH4 (in THF, 2.81 ml) dropwise. The reaction mixture was stirred at room temperature for 1 hour and was quenched by addition of freshly ground Na2SO4.10H2O (2 g). After stirring for 30 minutes, the solid residue was filtered off and washed with EtOAc. The filtrate was dried over MgSO4, filtered, concentrated, and purified via flash chromatography (DCM/MeOH) affording 3-(1H-Indazol-6-yl)-3-pyridin-3-yl-prop-2-en-1-ol CCXXXII-A as a yellow oil (62 mg, 17% yield) in a first fraction, and 3-(1H-Indazol-6-yl)-3-pyridin-3-yl-propan-1-ol CCXXXII-B as a yellow foam (64 mg, 18% yield) in a second fraction.

reactant | LiAlH4 | 2.81 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(1H-Indazol-6-yl)-3-pyridin-3-yl-propan-1-ol | N1N=CC2=CC=C(C=C12)C(CCO)C=1C=NC=CC1 | C15H15N3O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(1H-Indazol-6-yl)-3-pyridin-3-yl-prop-2-en-1-ol | N1N=CC2=CC=C(C=C12)C(=CCO)C=1C=NC=CC1 | C15H13N3O
